US04812164
using 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone with concentrated sulphuric acid during 2 minutes at 0° C. there is obtained 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 122°-123° C.

reactant | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)OCCC)F | C17H17ClF4N2O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-propoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OCCC)F | C14H11ClF4N2O3
